US06034239
N-[2-(7-amino-6-methoxyindan-1-yl)ethyl]acetamide
In substantially the same manner as in Reference Example 38, 2-(7-amino-6-methoxyindan-1-yl)ethylamine was produced from (E)-(7-amino-6-methoxyindan-1-ylidene) acetonitrile. The crude product thus obtained was used, without further purification, for the reaction described below. 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (3.3 g, 17.2 mmol.) and 1-hydroxybenzotriazole monohydrate (2.2 g, 14.4 mmol.) were suspended in N,N-dimethylformamide (30 mL). To the suspension was added, under ice-cooling, acetic acid (0.65 mL). This reaction mixture was stirred for one hour at room temperature, which was again cooled with ice. To the mixture was added dropwise a solution of the above-mentioned crude 2-(7-amino-6-methoxyindan-1-yl) ethylamine in N,N-dimethylformamide (10 mL). The mixture was stirred for 30 minutes, which was poured into water. The mixture was subjected to extraction with ethyl acetate. From the organic layer was extracted the hydrochloride with 2N hydrochloric acid. Then, the aqueous layer thus obtained was adjusted to pH 10 with a 4N aqueous solution of sodium hydroxide. From the aqueous layer, the organic matter was extracted with ethyl acetate, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of silica gel column chromatography (ethyl acetate:ethanol=10:1) to afford the title compound (yield 1.6 g, 66%).

reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 17.2 mmol, 3.3 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 14.4 mmol, 2.2 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(7-amino-6-methoxyindan-1-yl) ethylamine | NC=1C(=CC=C2CCC(C12)CCN)OC | C12H18N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | acetic acid | 0.65 mL | C(C)(=O)O | C2H4O2
product | N-[2-(7-amino-6-methoxyindan-1-yl)ethyl]acetamide | yield 1.6 g, 66% | NC=1C(=CC=C2CCC(C12)CCNC(C)=O)OC | C14H20N2O2
